### ISSUE TITLE
Pedagogy: Teach `unfold`

### ISSUE THREAD

**Issue by wildwestrom** [SamuelSchlesinger/leanlings#10]
Nowhere in this tutorial are we taught unfold.
This would've helped a lot for `induction1` when proving `myAdd_zero_left`:

Here's what it looks like with `unfold`. Arguably this is better because you can see how the goal changes before and after unfolding.

```lean4
-- This requires induction on `n`
theorem myAdd_zero_left (n : Nat) : myAdd 0 n = n := by
  induction n with
  | zero => rfl
  | succ n ih => unfold myAdd; rw [ih]
```

Without unfold, you can of course use `simp`:
```lean4
-- This requires induction on `n`
theorem myAdd_zero_left (n : Nat) : myAdd 0 n = n := by
  induction n with
  | zero => rfl
  | succ n ih => simp [myAdd, ih]
```

**Comment by SamuelSchlesinger** [comment]
Fixed in 92c6d10 (on main). `unfold` is now taught: it's in the proving2 tactic list, and the induction1 `myAdd_zero_left` solution uses `unfold myAdd; rw [ih]` (with the hint pointing at it) — exactly the case you flagged. `simp [myAdd, ih]` still works too.
